US07884124B2
4H-thieno[3,2-b]pyrrole-5-carboxylic acid (3.0 g, 17.9 mmol) was dissolved in anhydrous MeOH (50.0 mL) and cooled to 0° C. A solution (45.0 mL, 2 M in hexanes) of trimethylsilyldiazomethane (45 mL) was added in portions and the yellow color of the TMSCH2N2 remained. Stirring was continued for 10 min and then the excess TMSCH2N2 was quenched with acetic acid (5.0 mL). The solvent was removed with N2 stream, and the residue was chromatographed over silica gel (5%-40%, 30 min, EtOAc in heptane) to give methyl 4H-thieno[3,2-b]pyrrole-5-carboxylate (2.8 g, 86% yield). 1H NMR (400 MHz, CD3Cl) δ ppm 3.90 (s, 3H) 6.95 (dd, J=5.32, 0.78 Hz, 1H) 7.13 (dd, J=1.88, 0.76 Hz, 1H) 7.33 (d, J=5.37 Hz, 1H) 9.02 (br. s, 1H).

reactant | 4H-thieno[3,2-b]pyrrole-5-carboxylic acid | 17.9 mmol, 3.0 g | S1C=CC=2NC(=CC21)C(=O)O | C7H5NO2S
reactant | trimethylsilyldiazomethane | 2 M, 45.0 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | MeOH | 50.0 mL | CO | CH4O
product | methyl 4H-thieno[3,2-b]pyrrole-5-carboxylate | 2.8 g, 86% yield | S1C=CC=2NC(=CC21)C(=O)OC | C8H7NO2S
